US03939164
Bromine (168 g., 1.05 m.) is added over about one hour, with vigorous stirring, to 117.5 g. (0.47 m.) of 2,3-dibromotoluene at 190°C. After the addition is complete, the mixture is cooled to 100°C., then 120 cc. of concentrated sulfuric acid is added and the mixture is stirred for one hour at 100°C. Temperature is raised to 140°C. for 5 minutes, then the mixture is cooled and the reaction is quenched in ice water. The solid is extracted into ether, and the ether extract is washed with water, then dilute aqueous sodium bicarbonate until the acid is completely removed, and filtered. Removing the ether by evaporation gives 2,3-dibromobenzaldehyde as the residue.

reactant | Bromine | 168 g | BrBr | Br2
reactant | 2,3-dibromotoluene | BrC1=C(C=CC=C1Br)C | C7H6Br2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 2,3-dibromobenzaldehyde | BrC1=C(C=O)C=CC=C1Br | C7H4Br2O
